US07767675B2
Step 1. 5-(4-bromo-3-fluorophenyl)pyrimidin-2-amine
To a solution of 5-bromopyrimidin-2-amine (2.1 g, 0.012 mol) in 1,4-dioxane (30 mL) was added (4-bromo-3-fluorophenyl)boronic acid (2.0 g, 0.0091 mol), potassium phosphate (6.4 g, 0.030 mol) and tetrakis(triphenylphosphine)palladium (700 mg, 0.6 mmol), water (5 mL). The solution was degassed with N2, and heated at 120° C. for 4 h. The mixture was cooled to RT, poured into water, and extracted with EtOAc. The combined organic layers were washed with brine, dried with MgSO4, filtered, and concentrated. The residue was purified by chromatography on silica gel with EtOAc in CH2Cl2 (0-30%) to afford the desired compound. LCMS: (M+H)=267.9.

reactant | 5-bromopyrimidin-2-amine | 0.012 mol, 2.1 g | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | (4-bromo-3-fluorophenyl)boronic acid | 0.0091 mol, 2.0 g | BrC1=C(C=C(C=C1)B(O)O)F | C6H5BBrFO2
reactant | potassium phosphate | 0.030 mol, 6.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 5 mL | O | H2O
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.6 mmol, 700 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-bromo-3-fluorophenyl)pyrimidin-2-amine | BrC1=C(C=C(C=C1)C=1C=NC(=NC1)N)F | C10H7BrFN3
